US20010041799A1
To an ice cold solution of diisopropylamine (56 mL, 0.396 mol) in THF (85 mL) was added n-butyl lithium in hexane solution (240 mL, 1.6 M, 0.393 mol) over 20 min. The mixture was stirred at 0° C. for 30 min, cooled to a bath temperature of −65° C. and ethyl cyclopentanecarboxylate (37.4 g, 0.263 mol) in THF (50 mL) was added over 20 min. After 1 h, a solution of 1,2-dibromoethane (47 mL, 0.545 mol) in THF (50 mL) was added, the mixture was held at -65° C. for 3 h and then was allowed to warm to room temperature overnight. After the reaction was quenched by addition of saturated ammonium chloride solution (200 mL), the layers were separated and the aqueous layer was extracted with ethyl acetate (100 mL). The combined extracts were washed with 1:1 brine:water (250 mL) and were dried (Na2SO4). The solution was filtered, concentrated in vacuo then the residue was diluted with toluene (100 mL) and concentrated. The dilution and concentration cycle was repeated twice to give ethyl 1-(2-bromoethyl)cyclopentanecarboxylate (52.5 g).

reactant | diisopropylamine | 0.396 mol, 56 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.393 mol, 1.6 M, 240 mL | CCCCCC | C6H14
reactant | ethyl cyclopentanecarboxylate | 0.263 mol, 37.4 g | C1(CCCC1)C(=O)OCC | C8H14O2
reactant | 1,2-dibromoethane | 0.545 mol, 47 mL | BrCCBr | C2H4Br2
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 1-(2-bromoethyl)cyclopentanecarboxylate | 52.5 g | BrCCC1(CCCC1)C(=O)OCC | C10H17BrO2
